US05925611
Preparation of CF3CF(OCH3)CF(CF3)2
The title compound was prepared essentially as in Example 3 using anhydrous potassium fluoride (12.8 g, 0.22 mol), anhydrous diethylene glycol dimethyl ether (diglyme, 106 g), methyltrialkyl(C8 -C10)ammonium chloride (Adogen™ 464, available from Aldrich Chemical Company, 4 g), CF3COCF(CF3)2 (53.2 g, 0.20 mol, prepared essentially by the procedure of Smith et al., J. Am. Chem. Soc., 84, 4285 (1962)), and dimethyl sulfate (33.9 g, 0.72 mol). Aqueous potassium hydroxide was added to the reaction mixture (approximately 25 g of 50% solution), followed by water (200 mL). The resulting crude product was azeotropically distilled from the reaction mixture. The lower phase of the resulting distillate was separated from the upper phase, was washed with water, was dried over anhydrous sodium sulfate, and was distilled (b.p. 82-83° C.; yield of 45 g). The product identity was confirmed by GCMS and by FTIR.

reactant | potassium fluoride | 0.22 mol, 12.8 g | [F-].[K+]
reactant | methyltrialkyl(C8 -C10)ammonium chloride | 4 g | CCCCCCCCCC[N+](C)(CCCCCCCCCC)CCCCCCCCCC.CCCCCCCCC[N+](C)(CCCCCCCCC)CCCCCCCCC.CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-].[Cl-].[Cl-]
reactant | CF3COCF(CF3)2 | C(F)(F)(F)C(=O)C(F)(C(F)(F)F)C(F)(F)F | C5F10O
reactant | dimethyl sulfate | 0.72 mol, 33.9 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 200 mL | O | H2O
solvent | diethylene glycol dimethyl ether | 106 g | COCCOCCOC | C6H14O3
product | CF3CF(OCH3)CF(CF3)2 | C(F)(F)(F)C(F)(OC)C(F)(C(F)(F)F)C(F)(F)F | C6H3F11O
